US07960552B2
A solution of methyl 6-[4-({[3-[(cyclopentyloxy)methyl]-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate (11 mg, 0.02 mmol) in THF (0.22 mL) was placed in a microwave reaction tube. Methanol (0.11 mL) was added followed by 1 N sodium hydroxide (0.05 mL, 0.05 mmol). The tube was sealed and heated to 100° C. for 800 seconds. The solution was concentrated then neutralized with 1 N HCl. Water was added and the mixture was filtered to yield a bright yellow solid. The sample was dried in a vacuum oven under reduced pressure at 45° C. with P2O5. The sample was removed from the oven to yield 6-[4-({[3-[(cyclopentyloxy)methyl]-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylic acid (10 mg, 95%). 1H NMR (400 MHz, DMSO-d6): δ 8.37 (d, J=9 Hz, 1H), 8.20-8.17 (m, 2H), 8.08-8.03 (m, 2H), 7.80 (d, J=9 Hz, 2H), 7.14 (d, J=9 Hz, 2H), 5.01 (s, 2H), 4.49 (s, 2H), 3.95-3.93 (m, 1H), 3.40-3.20 (br s, 1H overlapped by water), 1.60-1.37 (m, 8H), 1.24 (d, J=7 Hz, 6H). HRMS C29H30N2O5 m/z 487.2228, (M+H)+Cal; 487.2227 (M+H)+Obs.

reactant | methyl 6-[4-({[3-[(cyclopentyloxy)methyl]-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate | 0.02 mmol, 11 mg | C1(CCCC1)OCC1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OC)C(C)C | C30H32N2O5
reactant | Methanol | 0.11 mL | CO | CH4O
reactant | sodium hydroxide | 0.05 mmol, 1 N, 0.05 mL | [OH-].[Na+]
solvent | THF | 0.22 mL | C1CCOC1 | C4H8O
product | 6-[4-({[3-[(cyclopentyloxy)methyl]-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylic acid | 10 mg, 95% | C1(CCCC1)OCC1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)O)C(C)C | C29H30N2O5
